US05124070
Into a four-necked flask equipped with a stirrer and a thermometer were charged 1.11 g (5 millimole) of (+)-4-[3-{2(S)-methylbutoxy}propyl]phenol, 1.67 g (6 millimole) of 4-decyloxybenzoic acid and 30 ml of anhydrous dichlomethane, and then 1.22 g (6 millimole) of N,N'-dicyclohexylcarbodiimide and 0.1 g of 4-pyrrolidinopyridine were added thereto, followed by stirring at room temperature for one day. After completion of the reaction, precipitates formed were filtered off and diluted with 200 ml of toluene. The organic phase was washed with water, 5% aqueous acetic acid solution, water, 5% aqueus sodium hydrogen carbonate solution and water in this order and then dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure. The obtained residue was purified by silica gel column chromttography (eluent: toluene-ethyl acetate) to obtain 2.18 g (yield: 90.4%) of (+)-4-[3-{2(S)-methylbutoxy}propyl]phenyl 4-decyloxybenzoate.

reactant | (+)-4-[3-{2(S)-methylbutoxy}propyl]phenol | 5 millimole, 1.11 g | C[C@H](COCCCC1=CC=C(C=C1)O)CC | C14H22O2
reactant | 4-decyloxybenzoic acid | 6 millimole, 1.67 g | C(CCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C17H26O3
reactant | N,N'-dicyclohexylcarbodiimide | 6 millimole, 1.22 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-pyrrolidinopyridine | 0.1 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
product | (+)-4-[3-{2(S)-methylbutoxy}propyl]phenyl 4-decyloxybenzoate | 2.18 g, yield: 90.4% | C(CCCCCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CCCOC[C@H](CC)C)C=C1 | C31H46O4
